US08957080B2
Synthesis of 2-((S)-2-((4-amino-3-(2-fluoro-4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)methyl)pyrrolidine-1-carbonyl)-4-(cyclopropylamino)-4-methylpent-2-enenitrile
A solution of 3-((S)-2-((4-amino-3-(2-fluoro-4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)methyl)pyrrolidin-1-yl)-3-oxopropanenitrile (118 mg, 0.25 mmol, 1.0 equiv), 2-(cyclopropylamino)-2-methylpropanal (0.16 g, 1.25 mmol, 5.0 equiv) and one drop of piperidine in MeCN (10 mL) was stirred overnight at 40° C. The solvent was removed and the residue was purified on Prep-HPLC. Conditions: (1#-Pre-HPLC-001(SHIMADZU)): Column, SunFire Prep C18, 19*150 mm 5 um; mobile phase, water with 0.05% TFA and CH3CN (40% CH3CN up to 100% in 20 min); Detector, 254 mm. This resulted in 40 mg (27%) of the title compound as a white solid and bis TFA salt. LC-MS: m/z 581 (M+H+). H1-NMR (400 MHz, CDCl3+D2O, ppm): 8.33 (s, 1H), 7.54-7.43 (m, 3H), 7.33 (s, 1H), 7.28-7.25 (m, 1H), 7.07 (d, J=8.0 Hz, 2H), 6.94 (dd, J=8.4, 2.0 Hz, 1H), 6.85 (dd, J=11.6, 2.0 Hz, 1H), 4.89-4.64 (m, 3H), 3.65-3.52 (m, 2H), 2.78 (m, 1H), 2.14-1.79 (m, 4H), 1.57-1.55 (d, 6H), 1.20 (m, 2H), 0.98 (m, 2H).

reactant | 3-((S)-2-((4-amino-3-(2-fluoro-4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)methyl)pyrrolidin-1-yl)-3-oxopropanenitrile | 0.25 mmol, 118 mg, 1.0 equiv | NC1=C2C(=NC=N1)N(N=C2C2=C(C=C(C=C2)OC2=CC=CC=C2)F)C[C@H]2N(CCC2)C(CC#N)=O | C25H22FN7O2
reactant | 2-(cyclopropylamino)-2-methylpropanal | 1.25 mmol, 0.16 g, 5.0 equiv | C1(CC1)NC(C=O)(C)C | C7H13NO
catalyst | piperidine | one drop | N1CCCCC1 | C5H11N
solvent | MeCN | 10 mL | CC#N | C2H3N
product | 2-((S)-2-((4-amino-3-(2-fluoro-4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)methyl)pyrrolidine-1-carbonyl)-4-(cyclopropylamino)-4-methylpent-2-enenitrile | 40 mg, 27% | NC1=C2C(=NC=N1)N(N=C2C2=C(C=C(C=C2)OC2=CC=CC=C2)F)C[C@H]2N(CCC2)C(=O)C(C#N)=CC(C)(C)NC2CC2 | C32H33FN8O2
